US07388006B2
6-{3-[1-(3-Trifluoromethylphenyl)-cyclopropyl]-2-oxo-propionylamino}-4-methyl-2,3-benzoxazin-1-one
1.8 ml Thionylchloride are added at −10° C. to 6.0 g of 3-[1-(3-trifluoromethylphenyl)-cyclopropyl]-2-oxo-propionic acid (prepared as described in WO 98/54159) in 60 ml of dimethyl acetamide. The mixture is stirred for 30 min. at −10° C. and for 1 hour at 0° C. and then admixed to 5 g of 6-amino-4-methyl-2,3-benzoxazin-1-one. After 16 hours at ambient temperature, the phases are separated between water and ethyl acetate. The organic phase is washed with brine, dried over sodium sulfate and concentrated. After chromatography on silica gel using hexane and ethyl acetate (10-20%) as a liquid phase, 6.78 g of 6-{3-[1-(3-trifluoromethylphenyl)-cyclopropyl]-2-oxo-propionylamino}-4-methyl-2,3-benzoxazin-1-one are obtained (m.p. 136-139° C.).

reactant | Thionylchloride | 1.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-[1-(3-trifluoromethylphenyl)-cyclopropyl]-2-oxo-propionic acid | FC(C=1C=C(C=CC1)C1(CC1)CC(C(=O)O)=O)(F)F | C13H11F3O3
reactant | 6-amino-4-methyl-2,3-benzoxazin-1-one | 5 g | NC=1C=CC2=C(C(=NOC2=O)C)C1 | C9H8N2O2
solvent | dimethyl acetamide | 60 ml | CC(=O)N(C)C | C4H9NO
product | 6-{3-[1-(3-Trifluoromethylphenyl)-cyclopropyl]-2-oxo-propionylamino}-4-methyl-2,3-benzoxazin-1-one | FC(C=1C=C(C=CC1)C1(CC1)CC(C(=O)NC=1C=CC2=C(C(=NOC2=O)C)C1)=O)(F)F | C22H17F3N2O4
